US05258378
1-Phenylsulphonyl-1,4,5,6,7,8-hexahydro-8-phenylpyrrolo[2,3-d]azepine
N-(2-Hydroxy-2-phenylethyl)-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine (1.67 g), trifluoroacetic acid (60 ml) and methanesulphonic acid (0.65 g, 6.68 mmole) were refluxed for 1.5 hours. After evaporating to dryness, water then 0.88 ammonia were added and the product was extracted into dichloromethane. The extracts were washed with water, dried and evaporated to give an oil. The oil was purified by chromatography on silica, eluting with chloroform then increasing amounts of methanol (1-15%) in chloroform to give the title product as an oily solid.

reactant | N-(2-Hydroxy-2-phenylethyl)-2-(1-phenylsulphonyl-3-pyrrolyl)ethylamine | 1.67 g | OC(CNCCC1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O3S
reactant | methanesulphonic acid | 6.68 mmole, 0.65 g | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Phenylsulphonyl-1,4,5,6,7,8-hexahydro-8-phenylpyrrolo[2,3-d]azepine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C1C(CNCC2)C2=CC=CC=C2 | C20H20N2O2S
